US07632838B2
(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(3-piperazin-1-ylphenyl)sulfonyl]piperazine
To a solution of (R)-tert-butyl 4-(3-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)piperazine-1-carboxylate (970 mg, 1.655 mmol) in DCM (15 mL) was added TFA (5 mL) at room temperature. The resultant mixture was stirred for 4 h then basified with 5% aq. NH3. The precipitate was collected and washed with water to give the desired product as a light yellow solid (795 mg, 99%). HRMS: calcd for C22H26F4N4O2S+H+, 487.17853. found (ESI-FTMS, [M+H]1+), 487.17747.

reactant | (R)-tert-butyl 4-(3-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)piperazine-1-carboxylate | 1.655 mmol, 970 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C27H34F4N4O4S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | N | H3N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(3-piperazin-1-ylphenyl)sulfonyl]piperazine | 795 mg, 99% | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)N1CCNCC1)C)C(F)(F)F | C22H26F4N4O2S
